US05451699
158.4 parts by weight of a sulfonation mixture (density 1.64 g/ml) which is obtained by reacting 63.0 parts by weight of 4-chloronitrobenzene with 86.3 parts by weight of 65% strength oleum (=65 parts of SO3 and 35 parts of H2SO4) and 9.1 parts by weight of H2SO4 is mixed, in an enameled dilution and precipitation vessel which is equipped with an anchor stirrer and cooling means, with 180.0 parts by weight of 11% strength sulfuric acid (or dilute sulfuric acid filtrate from the 2nd precipitation) at 50°-60° C., with high-speed stirring and moderate external cooling. After a residence time of about 2 hours at 50°-60° C. with stirring, the thin suspension is run into an enameled after stirring vessel which is equipped with an anchor stirrer and cooling means and where, after a residence time of at least 5 hours at 15° C., crystallization is brought to completion, again with stirring. The thin suspension, which has a solid content of 31%, is filtered to isolate the solids. About 163.0 parts by weight are obtained of industrially moist 6-chloro-3-nitrobenzenesulfonic acid dihydrate, containing 103.0 parts by weight of 6-chloro-3-nitrobenzenesulfonic acid and 21.0 parts by weight of H2SO4 (each calculated as 100% pure).

reactant | 4-chloronitrobenzene | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 6-chloro-3-nitrobenzenesulfonic acid dihydrate | O.O.ClC1=CC=C(C=C1S(=O)(=O)O)[N+](=O)[O-] | InChI=1S/C6H4ClNO5S.2H2O/c7-5-2-1-4(8(9)10)3-6(5)14(11,12)13;;/h1-3H,(H,11,12,13);2*1H2
